US06723722B1
A solution of Boc-L-methionine (9.972 g) [Boc:tert-butoxycarbonyl] and tert-butyl carbazate (5.29 g) in acetonitrile (100 ml) was combined with WSC (9.202 g) and stirred at room temperature for 5 hours. The reaction mixture was concentrated and the resultant residue was combined with ethyl acetate and water, and the organic phase was washed with water, aqueous sodium bicarbonate and brine, dried and concentrated to obtain tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate as a colorless oil.

reactant | Boc-L-methionine | 9.972 g | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | tert-butyl carbazate | 5.29 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | WSC | 9.202 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | tert-butyl 2-(Boc-L-methionyl)-1-hydrazine carboxylate | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)NNC(=O)OC(C)(C)C | C15H29N3O5S
